US04315014
A suspension of 11.5 g (50 mmol) of 6-(3-aminophenyl)-1,2-dihydro-2-oxonicotinic acid and 300 ml of water is stirred at room temperature and 21 g (0.15 mol) of potassium carbonate is added. The solution is cooled to 25° and 13.0 g (61 mmol) of 3-pyridinesulfonyl chloride hydrochloride is slowly added. The solution is clarified by filtration and the pH of the filtrate adjusted to 5.3 with hydrochloric acid. The precipitated solid is filtered, washed with water and dissolved in 300 ml of water containing 10 g (72 mmol) of potassium carbonate. The solution is stirred at room temperature and 10 g (47 mmol) of 3-pyridinesulfonyl chloride hydrochloride is gradually added along with portions of potassium carbonate to maintain a pH of 8. Altogether 10 g (72 mmol) of potassium carbonate is added. The reaction is stirred for 30 min at room temperature and filtered. The pH of the filtrate is adjusted to 6 with hydrochloric acid and the solids filtered and washed with water. A second crop is obtained by lowering the pH of the filtrate to 4.0 and the solid is filtered. The two crops are combined with 200 ml of 1 N sodium hydroxide and heated on the steam bath for 1 hour and filtered. The filtrate is acidified to pH 5.7 with 1 N hydrochloric acid and the solid is filtered, washed with water, methanol, and ether and dried under high vacuum to give 15.2 g of 6-[3-(3-pyridinylsulfonylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid; mp 305° dec.

reactant | 6-(3-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 50 mmol, 11.5 g | NC=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | water | 300 ml | O | H2O
reactant | 3-pyridinesulfonyl chloride hydrochloride | 61 mmol, 13.0 g | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
reactant | water | 72 mmol, 300 ml, 10 g | O | H2O
reactant | 3-pyridinesulfonyl chloride hydrochloride | 47 mmol, 10 g | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | potassium carbonate | 72 mmol, 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | potassium carbonate | 0.15 mol, 21 g | C([O-])([O-])=O.[K+].[K+]
product | 6-[3-(3-pyridinylsulfonylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 15.2 g | N1=CC(=CC=C1)S(=O)(=O)NC=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O | C17H13N3O5S
